US08207164B2
e) 5-(3-Bromo-phenyl)-5-trifluoromethyl-morpholin-3-one
A solution of 598 mg (1.616 mmol) [2-Amino-2-(3-bromo-phenyl)-3,3,3-trifluoro-propoxy]-acetic acid ethyl ester in 5.4 ml toluene and 2.7 ml TFA was heated at reflux temperature for 5 h. The cooled down mixture was evaporated, taken up in EtOAc, washed with 5% aqueous NaHCO3, dried with Na2SO4 and evaporated to give the essentially pure title compound as a colorless solid.

reactant | [2-Amino-2-(3-bromo-phenyl)-3,3,3-trifluoro-propoxy]-acetic acid ethyl ester | 1.616 mmol, 598 mg | C(C)OC(COCC(C(F)(F)F)(C1=CC(=CC=C1)Br)N)=O | C13H15BrF3NO3
solvent | toluene | 5.4 ml | C1(=CC=CC=C1)C | C7H8
solvent | TFA | 2.7 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(3-Bromo-phenyl)-5-trifluoromethyl-morpholin-3-one | BrC=1C=C(C=CC1)C1(COCC(N1)=O)C(F)(F)F | C11H9BrF3NO2
